US04298602
A solution was prepared by admixing 17 g (0.10 m) of 2-(6-fluoro-2-pyridinyl)hydrazinecarboxamide and 60 mls of 98 percent formic acid. This mixture was stirred and refluxed for 2 hours and allowed to cool to room temperature. The insolubles were filtered off and dried to produce 3.5 g of the desired 1-(6-fluoro-2-pyridinyl)-1H-1,2,4-triazol-3-ol which melted at 290° C. with decomposition. The excess formic acid in the remaining liquid phase was distilled off under reduced pressure and the solids which precipitated were washed and dried. This product was a second crop of the desired product which also melted at 290° C. The product was recovered in a yield of 60 percent of theoretical and upon analysis, was found to have carbon, hydrogen and nitrogen contents of 46.80, 2.89 and 31.17 percent, respectively, as compared with the theoretical contents of 46.47, 2.80 and 31.10 percent, respectively, as calculated for the above named compound.

reactant | 2-(6-fluoro-2-pyridinyl)hydrazinecarboxamide | 17 g | FC1=CC=CC(=N1)NNC(=O)N | C6H7FN4O
reactant | formic acid | 60 mls | C(=O)O | CH2O2
product | 1-(6-fluoro-2-pyridinyl)-1H-1,2,4-triazol-3-ol | 3.5 g, yield of 60 percent | FC1=CC=CC(=N1)N1N=C(N=C1)O | C7H5FN4O
